US04299821
1.22 g (2 mmoles) of Z-Glp-Leu-Pro-NH-C10H21 are dissolved in 30 ml of methanol, 0.2 g of a 10% palladium-on-carbon catalyst are added, and hydrogen is bubbled through the mixture for 30 minutes. The catalyst is filtered off, the filtrate is evaporated, and the oily residue is crystallized from n-hexane. The resulting 0.85 g of crude product are recrystallized from 4 ml of ethyl acetate to obtain 0.74 g (77%) of Glp-Leu-Pro-NH-C10H21 ; m.p.: 140°-141° C., Rf4 =0.76, [α]D25 =-71.3° (c=1%, in acetic acid). Amino acid analysis: Glu: 0.97 (1.0), Leu: 1.00 (1.0), Pro: 1.01 (1.0).

reactant | Z-Glp-Leu-Pro-NH-C10H21 | 2 mmoles, 1.22 g | N1([C@@H](CCC1=O)C(=O)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)NCCCCCCCCCC)CCC1)C(=O)OCC1=CC=CC=C1 | C34H52N4O6
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | Glp-Leu-Pro-NH-C10H21 | 0.74 g, 77% | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)NCCCCCCCCCC)CCC1 | C26H46N4O4
